US08604191B2
(R)-5-((E)-2-Pyrrolidin-3-ylvinyl)pyrimidine mono-orotate Form I
(R)-5-((E)-2-pyrrolidin-3-ylvinyl)pyrimidine free base (189 mg, 1.077 mmol, freshly prepared) was dissolved in acetonitrile (5 ml). The solution was then treated with 1.1 eq. of an orotic acid solution (1M in ethanol) at ambient temperature. The mixture was warmed up to 50° C. and cooled down slowly to ambient temperature overnight. The solid obtained was filtered and dried under suction before being analysed by XRPD, and 1H-NMR. The XRPD diffractogram of (R)-5-((E)-2-pyrrolidin-3-ylvinyl)pyrimidine mono-orotate Form I is shown in FIG. 6.

reactant | (R)-5-((E)-2-pyrrolidin-3-ylvinyl)pyrimidine | N1C[C@H](CC1)/C=C/C=1C=NC=NC1 | C10H13N3
reactant | orotic acid | 1M, 1.1 eq. | C(C1=CC(=O)NC(=O)N1)(=O)O | C5H4N2O4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (R)-5-((E)-2-Pyrrolidin-3-ylvinyl)pyrimidine mono-orotate | C(C1=CC(=O)NC(=O)N1)(=O)O.N1C[C@H](CC1)/C=C/C=1C=NC=NC1 | InChI=1S/C10H13N3.C5H4N2O4/c1(9-3-4-11-5-9)2-10-6-12-8-13-7-10;8-3-1-2(4(9)10)6-5(11)7-3/h1-2,6-9,11H,3-5H2;1H,(H,9,10)(H2,6,7,8,11)/b2-1+;/t9-;/m0./s1
